US04709044
4-Methyl-5-hexanoyl-4-imidazolin-2-one
A flask equipped with mechanical stirrer, reflux condenser and nitrogen inlet, was charged with 5.0 g (0.051 mol) of 4-methyl-4-imidazolin-2-one in 40 ml of nitrobenzene and cooled to ice-bath temperature. Aluminum chloride (27.1 g, 0.204 mol) was added portionwise. The reaction was heated to 75° C. and 7.55 g (0.056 mol) of hexanoyl chloride was added dropwise over 1 hour. Heating was continued for an additional 5 hours whereupon all starting material had been consumed as evidenced by tlc analysis (silica gel, methanol/ethyl acetate 1:4, phosphomolybdic acid visualization). The reaction was poured onto 100 ml of ice containing 7.5 g of sodium carbonate dissolved in 25 ml of water. The reaction mixture was stirred rapidly while 100 ml of ether were added. The resulting solids were isolated by filtration to afford after drying 5.2 g of crude ketone. The crude solids were recrystallized from 50 ml of water/ethanol 1:1 to afford 3.1 g ( 31%) of homogeneous title product; m.p. 221°-223° C.; IR (KBr) cm-1 : 3178 (s), 3153 (s), 3106 (s), 1746 (s), 1714 (s), 1657 (s), 1644 (s), 1611 (s); 1H-NMR (DMSO-d6): 10.17 (s, 2, N--H), 2.5 (m), 2.27 (s, 3), 1.34 (m, 6), 0.86 (t, 3); 13C-NMR (DMSO-d6): 188.5, 152.4, 118.9, 129.4, 38.8, 31.0, 23.4, 22.0, 13.8, 11.7; mass spectrum (70 eV) m/e 196 (parent), 140 C6H8O2,base), 125 (C5H5N2O2).

reactant | 4-methyl-4-imidazolin-2-one | 0.051 mol, 5.0 g | CC=1NC(NC1)=O | C4H6N2O
reactant | Aluminum chloride | 0.204 mol, 27.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hexanoyl chloride | 0.056 mol, 7.55 g | C(CCCCC)(=O)Cl | C6H11ClO
solvent | nitrobenzene | 40 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-Methyl-5-hexanoyl-4-imidazolin-2-one | 3.1 g, 31% | CC=1NC(NC1C(CCCCC)=O)=O | C10H16N2O2
